US07202241B2
A solution of 8-bromo-4-(2-fluoro-benzenesulfonyl)-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine (450 mg, 1.124 mmol) and 1-Boc-piperazine (209.4 mg, 1.124 mmol) in 5 mL of toluene was added to a warm, degassed mixture of Pd2(dba)3(Tris(dibenzylideneacetone)dipalladium(0), 20.59 mg, 0.022 mmol), BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, 35.0 mg, 0.056 mmol) and NaOt-Bu (151.26 mg, 1.57 mmol) in 5 ml of toluene. With stirring, the solution was heated at 90° C. for 2 hours, and then allowed to cool to room temperature. Ethyl acetate was added to the reaction which was then filtered through celite. The filtrate was washed with water (2×15 ml), brine (1×15 ml), and dried over MgSO4, after which the organic fraction was concentrated in vacuo. The resulting residue was purified by flash chromatography (15%–30% Ethyl acetate/Hexane) to give 470 mg (0.93 mmol) of 4-[4-(2-fluoro-benzenesulfonyl)-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester. MS: (M+H) 506.

reactant | 8-bromo-4-(2-fluoro-benzenesulfonyl)-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine | 1.124 mmol, 450 mg | BrC1=CC=CC=2N(CC(OC21)(C)C)S(=O)(=O)C2=C(C=CC=C2)F | C16H15BrFNO3S
reactant | 1-Boc-piperazine | 1.124 mmol, 209.4 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaOt-Bu | 1.57 mmol, 151.26 mg | CC(C)(C)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.022 mmol, 20.59 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.056 mmol, 35.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 4-[4-(2-fluoro-benzenesulfonyl)-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.93 mmol, 470 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2N(CC(OC21)(C)C)S(=O)(=O)C2=C(C=CC=C2)F | C25H32FN3O5S
